data/oMe_Silver.jsonl
{"reaction_id": "NR-104_1-c1ccccc1","level": "medium","name": "Hell-Volhard-Zelinsky Reaction","reactants_smiles": ["C(c1ccccc1)C(=O)O","P","BrBr"],"products_smiles": ["C(c1ccccc1)(Br)C(=O)Br"],"conditions": "","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(c1ccccc1)C(=[O])[OH+]P(Br)Br","step_weight": 0,"rationale": "PBr3 activates the carboxylic acid by converting the OH into a better leaving group via formation of a phosphonium intermediate, driven by the strong P–O bond formation and good leaving ability of bromophosphates."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(c1ccccc1)C(=O)Br","step_weight": 0,"rationale": "Bromide ion displaces the activated leaving group in an SN2-like process, favored by the electrophilic carbonyl carbon and the excellent leaving group ability of the phosphonium ester."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)=C([OH])Br","step_weight": 0,"rationale": "Base-induced deprotonation at the α-position forms the enol, stabilized by resonance with the adjacent carbonyl, making the α-carbon nucleophilic for subsequent electrophilic attack."},{"step": 4,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(c1ccccc1)(Br)C(=[OH+])Br","step_weight": 0,"rationale": "The electron-rich enol double bond attacks molecular bromine, with electrophilic bromination favored at the α-carbon due to resonance stabilization of the resulting carbocation intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccccc1)(Br)C(=O)Br","step_weight": 0,"rationale": "Proton transfer restores the carbonyl from the enol, driven by the thermodynamic stability of the C=O bond over the C–OH form."}],"description": "In the Hell–Volhard–Zelinsky reaction, the carboxylic acid is first converted to an acyl bromide via phosphorus tribromide, enabling α-bromination through enol formation and electrophilic bromination. Subsequent tautomerization regenerates the carbonyl, yielding the α-bromoacyl bromide product efficiently."}
{"reaction_id": "NR-240_1-C1CCCCC1_2-c1ccccc1_3-CC_4-C_5-Cc1ccc(OC)cc1","level": "medium","name": "Stevens Rearrangement","reactants_smiles": ["C1CCCCC1C(=O)C(c1ccccc1)[N+](CC)(C)Cc1ccc(OC)cc1","[Li]N(C(C)C)C(C)C"],"products_smiles": ["C1CCCCC1C(=O)C(c1ccccc1)(Cc1ccc(OC)cc1)N(CC)(C)"],"conditions": "","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1CCCCC1C([O-])=C(c1ccccc1)[N+](CC)(C)Cc1ccc(OC)cc1","step_weight": 0,"rationale": "LDA selectively deprotonates the α-carbon due to enhanced acidity from carbonyl resonance and the inductive electron-withdrawing effect of the positively charged nitrogen."},{"step": 2,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C1CCCCC1C(=O)C(c1ccccc1)(Cc1ccc(OC)cc1)N(CC)(C)","step_weight": 0,"rationale": "The nitrogen ylide rearranges via a [1,2]-shift because migration relieves charge separation and forms a stable tertiary amine, favored by the ability of the migrating group to stabilize developing negative charge."}],"description": "A strong, non-nucleophilic base deprotonates the acidic α-carbon between the carbonyl and quaternary ammonium, forming a nitrogen ylide stabilized by resonance with the carbonyl. This ylide undergoes a [1,2]-alkyl shift, yielding a more stable tertiary amine product."}
{"reaction_id": "NR-107_1-c1ccccc1_2-CC(C)C_3-C(C)(C)C_4-CS_5-CC_6-CC_7-CC#N","level": "medium","name": "Hofmann Elimination","reactants_smiles": ["C(c1ccccc1)(CC(C)C)C(C(C)(C)C)(CS)[N+](CC)(CC)CC#N","[OH-]"],"products_smiles": ["C(=C(C(C)(C)C)CS)(c1ccccc1)CC(C)C"],"conditions": "Heat","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C(C(C)(C)C)CS)(c1ccccc1)CC(C)C","step_weight": 0,"rationale": "Hydroxide abstracts the least hindered β-hydrogen anti-periplanar to the bulky ammonium group; the excellent leaving ability of the quaternary ammonium drives E2 elimination, yielding the less substituted alkene favored by steric effects."}],"description": "Under strong base and heat, the quaternary ammonium group undergoes Hofmann elimination, favoring the less substituted alkene due to steric hindrance and anti-periplanar geometry requirements. Hydroxide abstracts a β-proton, facilitating elimination of the bulky ammonium leaving group."}
